US07452892B2
D. Preparation of 7-(4-chlorophenyl)-5-(methylthio)-8-phenyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a stirred solution of 7-(4-chlorophenyl)-5-(methylthio)-8-phenyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one (100 mg, 0.27 mmol) in DMF (2 mL) at room temperature under argon was added 5-(chloromethyl)-2-(trifluoromethyl)pyridine (64.4 mg, 0.33 mmol), followed by K2CO3 (74.5 mg, 0.54 mmol). The resulting mixture was stirred at room temperature for 5 h. The crude product was purified by silica gel column chromatography eluted with ethyl acetate—hexanes, then lyophilized from 1,4-dioxane, to obtain the title compound (107.5 mg) as an off-white lyophilate. HPLC/MS: retention time=4.24 min, [M+H]30 =528.

reactant | 7-(4-chlorophenyl)-5-(methylthio)-8-phenyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 0.27 mmol, 100 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)SC)C(NN2)=O)C2=CC=CC=C2 | C18H13ClN4OS
reactant | 5-(chloromethyl)-2-(trifluoromethyl)pyridine | 0.33 mmol, 64.4 mg | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
reactant | K2CO3 | 0.54 mmol, 74.5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-(4-chlorophenyl)-5-(methylthio)-8-phenyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 107.5 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)SC)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=CC=C2 | C25H17ClF3N5OS
